US07618996B2
Preparation of Intermediate [4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-1d-1)
7-{2-Fluoro-4-[(3-methyl-butylamino)-methyl]-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one (I-1c-1: 40 g), Boc2O (34 g) and potassium carbonate (20 g) were combined in ethyl acetate (400 mL) and the mixture heated to 50° C. After 6 hours, water was added to the reaction mixture and the organic layer was separated, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel eluting with ethyl acetate in heptane to afford the title compound (I-1d-1).

reactant | 7-{2-Fluoro-4-[(3-methyl-butylamino)-methyl]-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one | 40 g | FC1=C(OC2=CC3=C(C(OC(O3)(C)C)=O)C=C2)C=CC(=C1)CNCCC(C)C | C22H26FNO4
reactant | Boc2O | 34 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | [4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)OC1=CC2=C(C(OC(O2)(C)C)=O)C=C1)F)=O | C27H34FNO6
